US07732435B2
A stirred mixture of trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-yl ester (2.41 g, 5.05 mmol), 1,1′-bis(diphenylphosphino)-ferrocene (5.6 g, 10.1 mmol, 2 eq.), tris(dibenzylideneacetone)dipalladium (0) (3.08 g, 3.36 mmol, 0.665 eq.), sodium t-butoxide (0.58 g, 6.06 mmol, 1.2 eq.) and benzophenone-imine (1.1 g, 1.02 ml, 6.06 mmol, 1.2 eq.) in toluene (160 ml) is heated under reflux at 130° C. for 45 min. The reaction mixture is allowed to cool to room temperature and filtered through a pad of Celite filter aid. The Celite is washed with methylene chloride, and the filtrate is evaporated to dryness in vacuo to afford 7-(benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one as a red oil. A stirred solution of the red oil in tetrahydrofuran (80 ml) is treated with 2M HCl solution (80 ml). After 30 min, the reaction mixture is basified with 17% ammonia solution and washed with ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation in vacuo to afford a dark residue. This is purified by flash chromatography (cyclohexane/ethyl acetate=9:1) to afford the title compound.

reactant | trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-8-methoxy-4-oxo-4H-chromen-7-yl ester | 5.05 mmol, 2.41 g | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)OS(=O)(=O)C(F)(F)F)OC)C(C)C | C20H16ClF3O6S
reactant | sodium t-butoxide | 6.06 mmol, 0.58 g, 1.2 eq. | CC(C)([O-])C.[Na+]
reactant | benzophenone-imine | 6.06 mmol, 1.02 ml, 1.1 g, 1.2 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 10.1 mmol, 5.6 g, 2 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 3.36 mmol, 3.08 g, 0.665 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC=C2C(C(=C(OC2=C1OC)C(C)C)C1=CC=C(C=C1)Cl)=O | C32H26ClNO3
